US08735597B2
Synthesis of 9-(4-[Benzoxazol-2-yl)phenyl]-3,6-diphenyl-9H-carbazole
In a 100 mL three-neck flask were put 1.0 g (3.7 mmol) of 2-(4-bromophenyl)benzoxazole, 1.2 g (3.7 mmol) of 3,6-diphenyl-9H-carbazole, and 0.77 g (8.0 mmol) of sodium tert-butoxide. The atmosphere in the flask was replaced with nitrogen. To this mixture were added 15 mL of toluene and 0.10 mL of a 10% hexane solution of tri(tert-butyl)phosphine. This mixture was degassed by reducing the pressure in the flask by using an aspirator. After that, the atmosphere in the flask was replaced with nitrogen. To this mixture was added 0.030 g (0.052 mmol) of bis (dibenzylideneacetone)palladium(0), followed by stirring under a nitrogen stream at 80° C. for 5 hours. After that, toluene was added to this mixture, and this suspension was suction filtered through Celite 545 (produced by Kishida Chemical Co., Ltd., Catalog No. 020-14815), whereby a filtrate was obtained.

reactant | 2-(4-bromophenyl)benzoxazole | 3.7 mmol, 1.0 g | BrC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H8BrNO
reactant | 3,6-diphenyl-9H-carbazole | 3.7 mmol, 1.2 g | C1(=CC=CC=C1)C=1C=CC=2NC3=CC=C(C=C3C2C1)C1=CC=CC=C1 | C24H17N
reactant | sodium tert-butoxide | 8.0 mmol, 0.77 g | CC(C)([O-])C.[Na+]
reactant | tri(tert-butyl)phosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | bis (dibenzylideneacetone)palladium(0) | 0.052 mmol, 0.030 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 9-(4-[Benzoxazol-2-yl)phenyl]-3,6-diphenyl-9H-carbazole | O1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)N2C1=CC=C(C=C1C=1C=C(C=CC21)C2=CC=CC=C2)C2=CC=CC=C2 | C37H24N2O
